US08227615B2
Step e: 3-(2-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyridin-4-yl)benzoic acid
tert-Butyl 3-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyridin-4-yl)benzoate (40. mg, 0.079 mmol) was dissolved in dichloromethane (1 mL). Trifluoroacetic acid (0.500 mL) was added and the reaction mixture was stirred at room temperature for 1 hour. The crude reaction mixture was evaporated to dryness to yield the pure product. ESI-MS m/z calc. 452.1, found; 453.0 (M+1)+ Retention time 1.64 minutes. 1H NMR (400 MHz, DMSO-d6) δ 1H NMR (400.0 MHz, DMSO-d6) d 9.01 (s, 1H), 8.22 (s, 1H), 8.03-8.00 (m, 1H), 7.89 (d, J=2.5 Hz, 2H), 7.68-7.64 (m, 2H), 7.58 (d, J=1.6 Hz, 1H), 7.43 (d, J=8.3 Hz, 1H), 7.35 (dd, J=1.7, 8.3 Hz, 1H), 2.18 (s, 3H), 1.54-1.51 (m, 2H), 1.21-1.17 (m, 2H).

reactant | tert-Butyl 3-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyridin-4-yl)benzoate | 0.079 mmol | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=C2)C=2C=C(C(=O)OC(C)(C)C)C=CC2)C)F | C28H26F2N2O5
reactant | Trifluoroacetic acid | 0.500 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(2-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyridin-4-yl)benzoic acid | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=C2)C=2C=C(C(=O)O)C=CC2)C)F | C24H18F2N2O5
